US07329680B2
A solution of 1-benzyl-5-bromo-3-nitro-1H-pyridin-2-one (1.0 g, 3.24 mmol), 4-dibenzofuran-4-yl-phenyl-boronic acid (932 mg, 3.24 mmol), K2CO3 (1.34 g, 3 equiv., 9.7 mmol) in toluene (15 mL), ethanol (10 mL) and water (5 mL) was treated with treated with Pd(PPh3)4 (125 mg). After heating to 80° C. overnight, the solution was cooled to room temperature and the resulting solids were filtered and washed with ether (2×6 mL) to give 1-benzyl-5-(4-dibenzofuran-4-yl-phenyl)-3-nitro-1H-pyridin-2-one as a yellow solid (1.53 g, 92%).

reactant | 1-benzyl-5-bromo-3-nitro-1H-pyridin-2-one | 3.24 mmol, 1.0 g | C(C1=CC=CC=C1)N1C(C(=CC(=C1)Br)[N+](=O)[O-])=O | C12H9BrN2O3
reactant | 4-dibenzofuran-4-yl-phenyl-boronic acid | 3.24 mmol, 932 mg | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C=C3)B(O)O | C18H13BO3
reactant | K2CO3 | 9.7 mmol, 1.34 g, 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 125 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-benzyl-5-(4-dibenzofuran-4-yl-phenyl)-3-nitro-1H-pyridin-2-one | 1.53 g, 92% | C(C1=CC=CC=C1)N1C(C(=CC(=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)[N+](=O)[O-])=O | C30H20N2O4
